US07858640B2
Trifluoromethanesulfonic Acid 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl Ester
A mixture of 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol (0.20 g), N-phenyltrifluoromethanesulfonimide (0.26 g), potassium carbonate (0.25 g) and tetrahydrofuran (2.0 mL) was heated by microwave irradiation at 120° C. for 10 minutes. The mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over sodium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:19 by volume) gave title compound as a beige solid, 0.25 g.

reactant | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol | 0.20 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)O | C18H15Cl2NO
reactant | N-phenyltrifluoromethanesulfonimide | 0.26 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Trifluoromethanesulfonic Acid 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl Ester | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C19H14Cl2F3NO3S
